US04399291
U.S. Pat. No. 2,417,897 and its corresponding U.S. Reissue Pat. No. 23,024, which issued Mar. 25, 1947 and Aug. 17, 1948, respectively, disclose a three-step process for the preparation of 3,3-bis(4-dimethylaminophenyl)-6-dimethylaminophthalide, Crystal Violet Lactone (CVL). In the first step, 3-dimethylaminobenzoic acid is prepared from 3-aminobenzoic acid by alkylating the free amine using methyl iodide in the presence of potassium hydroxide. In the second step, the 3-dimethylaminobenzoic acid is condensed with 4,4'-bis(dimethylamino)benzhydrol in the presence of sulfuric acid to obtain 2-[bis(4-dimethylaminophenyl)methyl]-5-dimethylaminobenzoic acid. In the third step, the 2-[bis(4-dimethylaminophenyl)methyl]-5-dimethylaminobenzoic acid is oxidized using lead dioxide in dilute hydrochloric acid to obtain the CVL.

reactant | 3,3-bis(4-dimethylaminophenyl)-6-dimethylaminophthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
reactant | 3-dimethylaminobenzoic acid | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | 3-aminobenzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | methyl iodide | CI | CH3I
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4,4'-bis(dimethylamino)benzhydrol | CN(C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1)C | C17H22N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-[bis(4-dimethylaminophenyl)methyl]-5-dimethylaminobenzoic acid | CN(C1=CC=C(C=C1)C(C1=C(C(=O)O)C=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C26H31N3O2
